US05824793
Crude 1a was dissolved in 3:1 EtOH/CH2Cl2 (200 mL) and reduced via hydrogenation (60 psi H2) in the presence of 10% Pd/C (0.7 g) for 18 h. Subsequent removal of the catalyst via filtration and evaporation of solvent in vacuo, afforded 57% (4.0 g, 8.7 mmol) of the corresponding 3'-amine which was taken on directly to the next reaction. 5'-O-Benzoyl-N6 -benzoyl-3'-amino-2',3'-dideoxyadenosine (3.9 g, 8.5 mmol) was dissolved in CH2Cl2 (50 mL), triethylamine (2.9 mL, 20.8 mmol) was added, followed by the addition of trityl chloride (2.9 g, 10.2 mmol). After stirring for 1.5 h at RT the reaction mixture was diluted with CH2Cl2 (50 mL), and extracted with H2O (2×50 mL) and saturated. aq. NaCl (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to afford crude 5'-O-Benzoyl-N6 -benzoyl-3'-(trityl)amino-2',3'-dideoxyadenosine, which was taken on directly to hydrolysis of the 5'-benzoyl protecting group. The crude 5'-O-Benzoyl-N6 -benzoyl-3'-(trityl)amino-2',3'-dideoxyadenosine (ca. 6.0 g, 8.5 mmol) was dissolved in 1:1 THF/MeOH (100 mL) and cooled to 0° C. To this mixture was added pre-chilled 2M aq. NaOH (13.7 mL, 27.4 mmol), and the reaction mixture was stirred at 0° C. for 20 min. At this time the reaction appeared to be only about 50% complete, so additional 2M aq. NaOH (10.0 mL, 20 mmol) was added. After stirring an additional 15 min at 0° C., the reaction was neutralized with Dowex 50W-X8 cation exchange resin (ca. 40 g of dry pyridinium H+ -form, 1.6 meq/g) to pH 6. The resin was filtered and washed extensively with MeOH and THF, and solvents were removed in vacuo. The residue was redissolved in CH2Cl2 (300 mL) and extracted with H2O (150 mL), saturated. aq. NaHCO3 (2×150 mL), H2O (150 mL), and saturated. aq. NaCl (150 mL). After drying over Na2SO4, the solution was filtered and concentrated in vacuo. The residue was purified on SiO2 (2-3% MeOH/CH2Cl2) to afford 71% yield (3.6 g, 6.0 mmol) of N6 -Benzoyl-3'-(trityl)amino-2',3'-dideoxyadenosine, 3a, as a white foam. Conversion to phosphoramidite monomers and/or succinylated nucleoside is described in Examples 5-7 below.

reactant | 5'-O-Benzoyl-N6 -benzoyl-3'-amino-2',3'-dideoxyadenosine | 8.5 mmol, 3.9 g | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)N | C24H22N6O4
reactant | triethylamine | 20.8 mmol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 10.2 mmol, 2.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5'-O-Benzoyl-N6 -benzoyl-3'-(trityl)amino-2',3'-dideoxyadenosine | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H36N6O4
